US05017724
3.42 Grams of 60% sodium hydride was gradually added to a solution prepared by dissolving 17.7 g of 5,7-dimethyl-8-methoxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone in 100 ml of dimethylformamide under ice-cooling, followed by stirring at room temperature for 30 minutes. Then, 5.4 ml of methyl iodide was added thereto under ice-cooling, followed by stirring at room temperature for 1 hour. The reaction mixture was poured into 3 liters of water and extracted with chloroform. The organic layer was dried with magnesium sulfate and then the solvent was distilled off. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:20) to obtain 9.6 g of 5,7,9a-trimethyl-8-methoxy-1,2,3,4,4a,9a-hexahydro-9fluorenone. fluorenone.

reactant | sodium hydride | [H-].[Na+]
reactant | 5,7-dimethyl-8-methoxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 17.7 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)OC)=O | C16H20O2
reactant | methyl iodide | 5.4 ml | CI | CH3I
reactant | water | 3 liters | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5,7,9a-trimethyl-8-methoxy-1,2,3,4,4a,9a-hexahydro-9fluorenone | 9.6 g | CC1=C2C3CCCCC3(C(C2=C(C(=C1)C)OC)=O)C | C17H22O2
